US08431604B2
153.1 1-[4-fluoro-2-(2-morpholine-4-ylethoxy)phenyl]ethanone
0.5 g (3.24 mmol) 4-fluoro-2-hydroxyacetophenone, 720 mg (3.87 mmol) N-(2-chloroethyl)morpholine hydrochloride, 900 mg K2CO3 and a catalytic amount of NaI in 20 ml acetone were heated for 20 hours at reflux. The mixture was concentrated, was dissolved in dichloromethane, was washed with water and saturated NaCl solution, was dried and was concentrated once again. Chromatography of the crude product on silica gel (dichloromethane/methanol 0-4%) yielded 730 mg of a clear, colorless oil; ESI-MS [M+H+]=268.15.

reactant | 4-fluoro-2-hydroxyacetophenone | 3.24 mmol, 0.5 g | CC(=O)C1=C(C=C(C=C1)F)O | C8H7FO2
reactant | N-(2-chloroethyl)morpholine hydrochloride | 3.87 mmol, 720 mg | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 900 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | [Na+].[I-]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-[4-fluoro-2-(2-morpholine-4-ylethoxy)phenyl]ethanone | FC1=CC(=C(C=C1)C(C)=O)OCCN1CCOCC1 | C14H18FNO3
